US09238639B2
B) S-(2-((3S)-6-((2,4-Dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)ethyl) ethanethioate
To a mixture of 2-((3S)-6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)ethanol (678 mg) and THF (dry) (20 mL) were added methanesulfonyl chloride (0.310 mL) and Et3N (0.279 mL). The mixture was stirred at room temperature for 30 min. And then DMF (dry) (20.00 mL) and potassium ethanethioate (228 mg) were added to the mixture. The volatiles (THF) were removed by evaporation. The resulting mixture was stirred at 70° C. for 2 h. The mixture was poured into water and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (570 mg).

reactant | 2-((3S)-6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)ethanol | 678 mg | ClC1=C(COC2=CC3=C([C@@H](CO3)CCO)C=C2)C=CC(=C1)Cl | C17H16Cl2O3
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | methanesulfonyl chloride | 0.310 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium ethanethioate | 228 mg | C(C)([O-])=S.[K+]
solvent | DMF | 20.00 mL | CN(C)C=O | C3H7NO
solvent | Et3N | 0.279 mL | CCN(CC)CC | C6H15N
product | S-(2-((3S)-6-((2,4-Dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)ethyl) ethanethioate | 570 mg | C(C)(SCC[C@@H]1COC2=C1C=CC(=C2)OCC2=C(C=C(C=C2)Cl)Cl)=O | C19H18Cl2O3S
